US04119669
4-Nitro-o-xylene (10.0 g., 0.066 mole) is shaken in a Parr hydrogenator with diethyl ketone (20 ml., 0.019 mole), 5% palladium on carbon catalyst (0.5 g.) and benzoic acid (0.5 g.) with approximately 3 atmospheres of hydrogen. When the uptake of hydrogen is complete, the suspension is filtered and analyzed by gas-liquid chromatography demonstrating thereby that N-(1-ethyl)propyl-3,4-xylidine had been produced in 83% yield.

reactant | 4-Nitro-o-xylene | 0.066 mole, 10.0 g | [N+](=O)([O-])C=1C=C(C(=CC1)C)C | C8H9NO2
reactant | diethyl ketone | 0.019 mole, 20 ml | C(C)C(=O)CC | C5H10O
reactant | benzoic acid | 0.5 g | C(C1=CC=CC=C1)(=O)O | C7H6O2
reactant | hydrogen | [H][H] | H2
catalyst | palladium on carbon | 0.5 g | [Pd] | Pd
product | N-(1-ethyl)propyl-3,4-xylidine | 83% yield | C(C)N(C1=CC(=C(C=C1)C)C)CCC | C13H21N
